US06184245B2
12 ml of 10% aqueous sodium hydroxide solution was added to the 4.94 g (19.8 mmol) of ethyl 4-bromo-2-thiopheneacetate and stirring carried out for 5 hours at 90° C. The reaction liquid was then cooled and extracted with ether. The aqueous layer was neutralized with hydrochloric acid, extracted with ether, then dried and concentrated. 4.24 g (19.1 mmol, 96%) of 4-bromo-2-thiopheneacetic acid was obtained.

reactant | sodium hydroxide | 12 ml | [OH-].[Na+]
reactant | ethyl 4-bromo-2-thiopheneacetate | 19.8 mmol, 4.94 g | BrC=1C=C(SC1)CC(=O)OCC | C8H9BrO2S
product | 4-bromo-2-thiopheneacetic acid | 19.1 mmol, 4.24 g, 96% | BrC=1C=C(SC1)CC(=O)O | C6H5BrO2S
